US05661162
Thioacetic acid (5.13 ml) was added to a suspension of caesium carbonate (11.7 g) in dimethylformamide (120 ml) at room temperature. The solution was stirred for 10 min and a solution of 3,5-bis(trifluoromethyl)benzyl bromide (20 g) in dimethylformamide (10 ml) was added. The resulting solution was stirred for 16 h, in the dark. The solvent was removed in vacuo and the residue was partitioned between ethyl acetate and water. The organic layer was washed with water, dried (Na2SO4) and the solvent was removed leaving an orange oil. The off was chromatographed on silica gel in 5% ethyl acetate/petrol giving 3,5-bis(trifluoromethyl)benzyl thioacetate (14.8 g) as a yellow oil. 1H NMR (360 MHz, CDCl3) δ 2.39 (3H, s), 4.17 (2H, s), 7.75 (3H, s); m/z (CI+) 303 (M+ +1).

reactant | Thioacetic acid | 5.13 ml | C(C)(=S)O | C2H4OS
reactant | caesium carbonate | 11.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3,5-bis(trifluoromethyl)benzyl bromide | 20 g | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
solvent | dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3,5-bis(trifluoromethyl)benzyl thioacetate | 14.8 g | C(C)(=S)OCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C11H8F6OS
